US05340802
28a: BOC-Pro-Asp(OBn)-Phe-NH2
BOC-Pro-OH (189 mg, 0.88 mmol) was coupled to TFA.Asp(β-OBn)-Phe-NH2 (425 mg, 0.88 mmol) using the DCC/HOBt method in THF in the usual manner to provide after work-up 469 mg of crude product. Recrystallization from ethyl acetate provided 326 mg (65% yield) of the title compound as a white solid. 1H-NMR (DMSO-d6) (2 conformers, 1.5:1) δ1.28 (s, 5.4H), 1.38 (s, 3.6H), 1.71 (m, 3H), 2.0 (m, 1H), 2.58 (d, J=7.5 Hz, 0.4H), 2.63 (d, J=7.5 Hz, 0.6 H), 2.80 (m, 2H), 3.02 (m, 1H), 3.25 (1H, obscured by H2O), 4.05 (m, 1H), 4.39 (m, 1H), 4.60 (m, 1H), 5.07 (s, 2H), 7.20 (m, 7H), 7.35 (m, 5 H), 7.74 (d, J=8 Hz, 0.4H), 7.86 (d, J=7.5 Hz, 0.6H), 8.14 (d, J=7.5 Hz, 0.6H), 8.24 (d, J=7.5 Hz, 0.4H). MS (EI): m/e 566 (M+), 522, 465, 458, 402, 385, 358, 314.

reactant | BOC-Pro-OH | 0.88 mmol, 189 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Asp(β-OBn)-Phe-NH2 | 0.88 mmol, 425 mg | N[C@@H](C(C(O)=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C20H23N3O5
reactant | DCC HOBt | C1CCC(CC1)N=C=NC2CCCCC2.C=1C=CC2=C(C1)N=NN2O
solvent | THF | C1CCOC1 | C4H8O
product | BOC-Pro-Asp(OBn)-Phe-NH2 | 326 mg, 65% yield | N1([C@H](C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1)C(=O)OC(C)(C)C | C30H38N4O7
